US07138399B2
M2. 2-Amino-4-benzyloxy-3-nitropyridine
0.73 g of 4-benzyloxy-2-fluoro-3-nitropyridine (starting material M3) are dissolved in 10 ml of a 5M solution of ammonia in methanol and stirred at ambient temperature for 16 hours. The solvent is distilled off and the residue is chromatographed on silica gel (dichloromethane/petroleum ether 4:1+1% triethylamine). Concentration of the pure fractions and drying in vacuo gives 0.51 g of the title compound as a yellow solid of m.p. 145–147° C. The mass spectrum shows the molecular peak MH+ at 246.0 Da.

reactant | 4-benzyloxy-2-fluoro-3-nitropyridine | 0.73 g | C(C1=CC=CC=C1)OC1=C(C(=NC=C1)F)[N+](=O)[O-] | C12H9FN2O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-Amino-4-benzyloxy-3-nitropyridine | 0.51 g | NC1=NC=CC(=C1[N+](=O)[O-])OCC1=CC=CC=C1 | C12H11N3O3
